US07645773B2
1-{2-[4-((trans)-Octahydro-isoquinoline-2-carbonyl)-thiazol-2-yl]-phenyl}-ethanone was synthesized in a similar manner, by the reaction of 2-acetyl-phenyl-boronic acid (Aldrich) with 2-bromo-thiazole-4-carboxylic acid ethyl ester (Combi-Blocks, Inc., San Diego, Calif.) in a Suzuki reaction, followed by hydrolysis and coupling with trans-decahydroquinoline.

reactant | 2-acetyl-phenyl-boronic acid | C(C)(=O)C1=C(C=CC=C1)B(O)O | C8H9BO3
reactant | 2-bromo-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)Br | C6H6BrNO2S
reactant | trans-decahydroquinoline | N1CCC[C@@H]2CCCC[C@@H]12 | C9H17N
product | 1-{2-[4-((trans)-Octahydro-isoquinoline-2-carbonyl)-thiazol-2-yl]-phenyl}-ethanone | C1N(CC[C@@H]2CCCC[C@@H]12)C(=O)C=1N=C(SC1)C1=C(C=CC=C1)C(C)=O | C21H24N2O2S
